US08193378B2
To a solution of 3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]benzoic acid (1.085 g) in THF (43 mL) was added dropwise a solution of BH3.THF in THF (1 M, 14 mL) at 0° C. The reaction mixture was warmed to room temperature and then stirred for 15 hours. To the reaction liquid was added 1 M hydrochloric acid at 0° C. to stop the reaction, followed by stirring for 30 minutes and extracting with EtOAc. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure to obtain {3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}methanol (570 mg) as a white oily substance.

reactant | 3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]benzoic acid | 1.085 g | FC(C=1C=C(C(=O)O)C=CC1O[C@H](C(F)(F)F)C)(F)F | C11H8F6O3
reactant | BH3.THF | B.C1CCOC1
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 43 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 14 mL | C1CCOC1 | C4H8O
product | {3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}methanol | 570 mg | FC(C=1C=C(C=CC1O[C@H](C(F)(F)F)C)CO)(F)F | C11H10F6O2
